US07351857B2
A solution of ethyl-(6-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-carbamic acid 4-trifluoromethoxy-phenyl ester (898.6 mg; 2.19 mmol) in anhydrous CH2Cl2 (8 mL) was cooled to −78° C., a 1.0 M solution of boron tribromide-CH2Cl2 (6.57 mL, 6.57 mmol) was added slowly. Upon completion of the addition, the reaction mixture was allowed to warm to RT, quenched with MeOH (10 mL) and stirred for an additional 2 h. The solvents were evaporated, and the residue was purified by flash chromatography with hexane-EtOAc (2.5:1) to give 649.4 mg (75%) of ethyl-(6-hydroxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-carbamic acid 4-trifluoromethoxy-phenyl ester as a white solid.

reactant | ethyl-(6-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-carbamic acid 4-trifluoromethoxy-phenyl ester | 2.19 mmol, 898.6 mg | FC(OC1=CC=C(C=C1)OC(N(C1CC2=CC=C(C=C2CC1)OC)CC)=O)(F)F | C21H22F3NO4
reactant | boron tribromide CH2Cl2 | 6.57 mmol, 6.57 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | ethyl-(6-hydroxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-carbamic acid 4-trifluoromethoxy-phenyl ester | 649.4 mg, 75% | FC(OC1=CC=C(C=C1)OC(N(C1CC2=CC=C(C=C2CC1)O)CC)=O)(F)F | C20H20F3NO4
